US06610730B2
Crude 1-[1,3]dioxolan-2-yl-6,6,6-trifluoro-hexan-3-one (18 g, prepared above) in 1:1 2N HCl-dioxane (80 ml) was heated to reflux for 20 minutes, then neutralized with aqueous sodium bicarbonate (100 ml), then extracted with ethyl acetate (3×75 ml). The combined organics were washed with brine (2×50 ml), then concentrated under reduced pressure to provide crude 7,7,7-trifluoro-4-oxo-heptanal (10 g), which may be used without further purification. 1H NMR (CDCl3) δ9.80 (1H, s), 2.85-2.70 (6H, m), 2.47-2.35 (2H, m).

reactant | 1-[1,3]dioxolan-2-yl-6,6,6-trifluoro-hexan-3-one | 18 g | O1C(OCC1)CCC(CCC(F)(F)F)=O | C9H13F3O3
reactant | HCl dioxane | 2N, 80 ml | Cl.O1CCOCC1
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 7,7,7-trifluoro-4-oxo-heptanal | 10 g | FC(CCC(CCC=O)=O)(F)F | C7H9F3O2
